US07091227B2
1-(7-Vinyl-2-benzothiazolyl)-3-ethylurea
Similar to the synthesis of Example 203, a mixture of 1-(7-trifluoromethylsulfonyl-2-benzothiazolyl)-3-ethylurea (0.050 g, 80% pure, 0.11 mmol), lithium chloride (0.039 g, 0.92 mmol, 8.4 eq), triphenylphosphine (0.017 g, 0.066 mmol, 0.6 eq), Pd(PPh3)2Cl2 (0.009 g, 0.013 mmol, 0.12 eq), tetravinyltin (0.040 mL, 0.22 mmol, 2.0 eq), and a crystal of 2,6-di-tert-butyl-4-methylphenol was purged with nitrogen gas, and was heated at about 100° C. for about 1.5 hours. The mixture was taken up in MeOH, filtered, concentrated, and purified by HPLC and preparative TLC in ethyl acetate/heptane mixture to obtain 0.004 g (14%) of the desired compound. LC/MS 248 (M+1); LC retention time 2.96 min.

reactant | 1-(7-trifluoromethylsulfonyl-2-benzothiazolyl)-3-ethylurea | 0.11 mmol, 0.050 g | FC(S(=O)(=O)C1=CC=CC=2N=C(SC21)NC(=O)NCC)(F)F | C11H10F3N3O3S2
reactant | lithium chloride | 0.92 mmol, 0.039 g, 8.4 eq | [Cl-].[Li+]
reactant | triphenylphosphine | 0.066 mmol, 0.017 g, 0.6 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tetravinyltin | 0.22 mmol, 0.040 mL, 2.0 eq | C(=C)[Sn](C=C)(C=C)C=C
catalyst | Pd(PPh3)2Cl2 | 0.013 mmol, 0.009 g, 0.12 eq | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-(7-Vinyl-2-benzothiazolyl)-3-ethylurea | 0.004 g, 14% | C(=C)C1=CC=CC=2N=C(SC21)NC(=O)NCC | C12H13N3OS
